US05969138
Preparation of (R)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone dihydrochloride(Table 2; Compound No. 50; (R)-isomer)
A solution of 18.7 g of (R)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone in 130 mL of methanol was acidified with 4N hydrochloric acid/1,4-dioxane. The precipitated crystals were filtered, washed with diethyl ether and dried in vacuo to give 22.6 g of the title compound.

reactant | (R)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone | 18.7 g | ClC1=CC=C(C=C1)N1C([C@H](CC1)CN1CCN(CC1)CCOC)=O | C18H26ClN3O2
reactant | hydrochloric acid 1,4-dioxane | 4N | Cl.O1CCOCC1
solvent | methanol | 130 mL | CO | CH4O
product | (R)-1-(4-chlorophenyl)-3-(4-(2-methoxyethyl)piperazin-1-yl)methyl-2-pyrrolidinone dihydrochloride | 22.6 g | Cl.Cl.ClC1=CC=C(C=C1)N1C([C@H](CC1)CN1CCN(CC1)CCOC)=O | InChI=1S/C18H26ClN3O2.2ClH/c1-24-13-12-20-8-10-21(11-9-20)14-15-6-7-22(18(15)23)17-4-2-16(19)3-5-17;;/h2-5,15H,6-14H2,1H3;2*1H/t15-;;/m1../s1
